US04800206
606 mg of 3-[(RS)-2-oxiranyl]pyridine and 991 mg of (RS)-5-(3-aminobutyl)-2-thiophenecarboxamide were heated to 100° for 25 hours in 5 ml of DMSO. The reaction mixture was diluted with water and extracted three times with methylene chloride. The methylene chloride solutions were washed with water, dried and evaporated in a vacuum. Chromatography of the residue on silica gel with ether/methanol gave 149 mg of 5-[(RS)-3-[[(RS)-2-hydroxy-2-(3-pyridyl)ethyl]amino]butyl]-2-thiophenecarboxamide, ε201 =14420; ε268 =11310.

reactant | 3-[(RS)-2-oxiranyl]pyridine | 606 mg | O1C(C1)C=1C=NC=CC1 | C7H7NO
reactant | (RS)-5-(3-aminobutyl)-2-thiophenecarboxamide | 991 mg | NC(CCC1=CC=C(S1)C(=O)N)C | C9H14N2OS
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-[(RS)-3-[[(RS)-2-hydroxy-2-(3-pyridyl)ethyl]amino]butyl]-2-thiophenecarboxamide | 149 mg | OC(CNC(CCC1=CC=C(S1)C(=O)N)C)C=1C=NC=CC1 | C16H21N3O2S
